US08314091B2
C: (S)—N-tert-Butyl-3-((4-(3-fluoro-4-(3-isobutylureido)benzoyl)-2-isopropylpiperazin-1-yl)methyl)benzamide
To a stirred solution of (S)-3-((4-(4-amino-3-fluorobenzoyl)-2-isopropylpiperazin-1-yl)methyl)-N-tert-butylbenzamide (40 mg, 0.088 mmol) in dichloromethane (2 mL) at room temperature was added 4-nitrophenyl chloroformate (18.62 mg, 0.092 mmol). The reaction mixture was stirred for 1 hour before the addition of isobutylamine (6.44 mg, 0.088 mmol). After 2 hours stirring, the reaction mixture was applied to a silica carbonate column (2 g). The eluant was concentrated under vacuum and redissolved in methanol. Purification by HPLC gave the title compound (3 mg). MS (ESI) m/z 554.3 [M+H]+

reactant | (S)-3-((4-(4-amino-3-fluorobenzoyl)-2-isopropylpiperazin-1-yl)methyl)-N-tert-butylbenzamide | 0.088 mmol, 40 mg | NC1=C(C=C(C(=O)N2C[C@@H](N(CC2)CC=2C=C(C(=O)NC(C)(C)C)C=CC2)C(C)C)C=C1)F | C26H35FN4O2
reactant | 4-nitrophenyl chloroformate | 0.092 mmol, 18.62 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | isobutylamine | 0.088 mmol, 6.44 mg | C(C(C)C)N | C4H11N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | (S)—N-tert-Butyl-3-((4-(3-fluoro-4-(3-isobutylureido)benzoyl)-2-isopropylpiperazin-1-yl)methyl)benzamide | 3 mg | C(C)(C)(C)NC(C1=CC(=CC=C1)CN1[C@H](CN(CC1)C(C1=CC(=C(C=C1)NC(=O)NCC(C)C)F)=O)C(C)C)=O | C31H44FN5O3
